US07846959B2
A solution of 3-{4-[(1,1-dimethylethyl)amino]-3-nitrophenyl}-3-hydroxy-2-(phenylmethyl)-2,3-dihydro-1H-isoindol-1-one (1.8 mg, 4.17 mmol) in a mixture of terahydrofuran-ethyl acetate (1:1, 20 mL) was hydrogenated over 10% Pd—C (50 mg) at 40 psi for 18 h. The catalyst removed by filtration and the filtrate concentrated in vacuo. The residue was purified by column chromatography (SiO2, hexanes/ethyl acetate) to afford 3-{3-amino-4-[(1,1-dimethylethyl)amino]phenyl}-3-hydroxy-2-(phenylmethyl)-2,3-dihydro-1H-isoindol-1-one (950 mg, 57%). MS (EI) for C25H27N3O2: 402 (MH+).

reactant | 3-{4-[(1,1-dimethylethyl)amino]-3-nitrophenyl}-3-hydroxy-2-(phenylmethyl)-2,3-dihydro-1H-isoindol-1-one | 4.17 mmol, 1.8 mg | CC(C)(C)NC1=C(C=C(C=C1)C1(N(C(C2=CC=CC=C12)=O)CC1=CC=CC=C1)O)[N+](=O)[O-] | C25H25N3O4
catalyst | Pd—C | 50 mg | [Pd] | Pd
product | 3-{3-amino-4-[(1,1-dimethylethyl)amino]phenyl}-3-hydroxy-2-(phenylmethyl)-2,3-dihydro-1H-isoindol-1-one | 950 mg, 57% | NC=1C=C(C=CC1NC(C)(C)C)C1(N(C(C2=CC=CC=C12)=O)CC1=CC=CC=C1)O | C25H27N3O2
